Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:11][C:10]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10][O:11]1,-1.87043029656
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:6],2.88372815274
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:7].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[O:11][H:12],4.09979005767
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-4.78511368142
[C:1]#[C:2][O:3][C:4].[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.92093484665
[H:10].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.81856542897
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-3.94299027138
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.51203674382
[C:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.39298136245
[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],2.59256658813
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],4.3896885887
[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.09948583401
[C:1]#[C:2].[C:3]([H:4])[O:5][H:6]>>[C:1]#[C:2][C:3]([H:4])[O:5][H:6],-7.02497910292
[C:9]([H:10])([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-0.99017308268
[C:1]#[C:2][C:3]([H:4])[O:5][O:6]>>[C:1].[C:2]=[C:3]([H:4])[O:5][O:6],7.1408735527100005
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.25342553791
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][O:9][H:10]>>[H:1][C:2]#[C:3][C:4][C:6]([H:7])[O:8][O:9][H:10].[H:5],4.49700904124
[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1]/[C:2](=[C:3](\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.564052805759999
[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.62091587328
[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.60317954319
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9].[O:10][H:11],5.23536991002
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8].[O:9][H:10]>>[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-5.51861621133
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-1.73111054229
[C:9]([H:10])([H:11])[H:12].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.82723032176
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],4.17184418597
[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-6.32947197331
[C:2]=[C:7]([H:8])[H:9].[H:1][C:10]([C:3]([H:4])([H:5])[H:6])=[C:11]([H:12])[H:13]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-0.95277170309
